### PR TITLE
feat(QM): adds proof of `polyBddSchwartzSubmodule_top_dense`

### PR DESCRIPTION
**Pull request by gloges**
Depends on #1055.

Adds a proof that `polyBddSchwartzSubmodule d ⊤` is dense in `SpaceDHilbertSpace d`.

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

**Comment by gloges** [comment]
blocked-by-PR

**Comment by gloges** [comment]
Perhaps a minor point, but running `lake exe lint_all` flags `Mathlib.Analysis.Calculus.BumpFunction.InnerProduct` as a transitive import yet removing it produces errors w/ `[HasContDiffBump E]` on line 138. I think the issue is that no definitions/lemmas are used from that file, just the inferred `HasContDiffBump` instance for inner product spaces.

**Comment by gloges** [comment]
-blocked-by-PR

File: Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/PolyBddSchwartzSubmodule.lean [hunk 1]
```diff
@@ -131,12 +132,138 @@ lemma polyBddSchwartzSubmodule_le_of_ge (d : ℕ) {a b : ℕ∞} (h : a ≤ b) :
...
+    simp_all [← ENNReal.rpow_mul_natCast]
+  · apply Tendsto.ennrpow_const 2⁻¹ at h
+    simp_all
+
 lemma polyBddSchwartzSubmodule_top_dense (d : ℕ) :
-    Dense (polyBddSchwartzSubmodule d ⊤ : Set (SpaceDHilbertSpace d)) :=
-  sorry
+    Dense (polyBddSchwartzSubmodule d ⊤ : Set (SpaceDHilbertSpace d)) := by
+  rcases eq_zero_or_pos d with (rfl | hd)
+  · -- `d = 0`: Every function `Space 0 ≅ {0} → ℂ` is in `polyBddSchwartzSubmodule 0 ⊤`
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/PolyBddSchwartzSubmodule.lean]: Maybe we can pull the d=0 out as a separate (maybe private) lemma?

**Comment by jstoobysmith** [comment]
@gloges Thanks for mentioning this transitive import thing. I'm not sure why this is happening here, though I suspect it is to do with the module system.

File: Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/PolyBddSchwartzSubmodule.lean (hunk 1 above)
Comment (gloges) [reply Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/PolyBddSchwartzSubmodule.lean]: Sure, makes sense since it is so different than `d > 0`.

**Review by jstoobysmith — APPROVED** [review]
Approved. Will merge shortly.
